US09260441B2
Step A: (E)-4,4,4-Trifluoro-1-[4-(4-methyl-2-pyridyl)piperazin-1-yl]but-2-en-1-one
(E)-4,4,4-Trifluorobut-2-enoic acid (28 mg, 0.2 mmol) was dissolved in dichloromethane (1 ml), oxalyl chloride (20 μl, 0.2 mmol) was added and the resulting solution was stirred at room temperature for 5 minutes. This solution was added to a solution of 1-(4-methyl-2-pyridyl)piperazine (36 mg, 0.2 mmol) and TEA (42 μl, 0.3 mmol) in anhydrous DMF (0.5 ml) and the resulting mixture was stirred at room temperature for one hour. The mixture was diluted with ethyl acetate, washed with sat. sodium bicarbonate solution, brine, dried (magnesium sulfate) and concentrated under reduced pressure. The residue was used directly in the next step. MS (multi-mode) m/z=300.1 [M+1]+.

reactant | (E)-4,4,4-Trifluorobut-2-enoic acid | 0.2 mmol, 28 mg | FC(/C=C/C(=O)O)(F)F | C4H3F3O2
reactant | oxalyl chloride | 0.2 mmol, 20 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-methyl-2-pyridyl)piperazine | 0.2 mmol, 36 mg | CC1=CC(=NC=C1)N1CCNCC1 | C10H15N3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-4,4,4-Trifluoro-1-[4-(4-methyl-2-pyridyl)piperazin-1-yl]but-2-en-1-one | FC(/C=C/C(=O)N1CCN(CC1)C1=NC=CC(=C1)C)(F)F | C14H16F3N3O
